US09227971B2
Step 3: Preparation of di-tert-butyl 1-acetyl-2-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)hydrazine-1,2-dicarboxylate
A mixture of di-tert-butyl 1-acetyl-2-(5-bromopyridin-2-yl)hydrazine-1,2-dicarboxylate (4.80 g, 11.2 mmol), bis(pinacolato)diboron (5.66 g, 22.3 mmol), PdCl2(dppf).DCM (683 mg, 0.837 mmol), and KOAc (6.57 g, 66.9 mmol) in dioxane (43.5 mL) was degassed and then heated at 90° C. for 15 hours. It was then partitioned between 20% i-PrOH/DCM and (3:7) saturated aqueous NH4Cl/concentrated aqueous NH4OH. The organic layer was washed with brine, dried with Na2SO4, and the solvent was removed under vacuum. The resulting residue was purified by a SiO2 column (15-25% EtOAc/hexane) to afford the titled compound as yellow glass (3.54 g).

reactant | di-tert-butyl 1-acetyl-2-(5-bromopyridin-2-yl)hydrazine-1,2-dicarboxylate | 11.2 mmol, 4.80 g | C(C)(=O)N(N(C(=O)OC(C)(C)C)C1=NC=C(C=C1)Br)C(=O)OC(C)(C)C | C17H24BrN3O5
reactant | bis(pinacolato)diboron | 22.3 mmol, 5.66 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DCM | 0.837 mmol, 683 mg | C(Cl)Cl | CH2Cl2
reactant | KOAc | 66.9 mmol, 6.57 g | CC(=O)[O-].[K+]
solvent | dioxane | 43.5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | di-tert-butyl 1-acetyl-2-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)hydrazine-1,2-dicarboxylate | 3.54 g | C(C)(=O)N(N(C(=O)OC(C)(C)C)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C | C23H36BN3O7
